US07417052B2
(18c) 5-[4-[(2-ethyl-5,7-dimethylimidazo[4,5-b]pyridin-3-yl)methyl]phenyl]thiazolidine-2,4-dione
To a suspension of 5-[4-[(2-ethyl-5,7-dimethylimidazo[4,5-b]pyridin-3-yl)methyl]phenyl]-2-iminothiazolidin-4-one (6.23 g) in ethanol was added concentrated hydrochloric acid (20 ml) to give a solution, which was stirred under reflux for 24 hrs. After the reaction, the mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate-water, and the solution was neutralized with aqueous sodium bicarbonate. After partitioning and extraction, the extracted organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, filtrated and concentrated, and the precipitated object compound (5.32 g) was collected by filtration melting point: 221-222° C.

reactant | 5-[4-[(2-ethyl-5,7-dimethylimidazo[4,5-b]pyridin-3-yl)methyl]phenyl]-2-iminothiazolidin-4-one | 6.23 g | C(C)C1=NC=2C(=NC(=CC2C)C)N1CC1=CC=C(C=C1)C1C(NC(S1)=N)=O | C20H21N5OS
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 5-[4-[(2-ethyl-5,7-dimethylimidazo[4,5-b]pyridin-3-yl)methyl]phenyl]thiazolidine-2,4-dione | C(C)C1=NC=2C(=NC(=CC2C)C)N1CC1=CC=C(C=C1)C1C(NC(S1)=O)=O | C20H20N4O2S
